US07776910B2
A solution of HCl (4.0 M in 1,4-dioxane, 3.4 mL) was added to a solution of 3-[4-(4-methoxy-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.845 g, 1.958 mmol) in 1,4-dioxane (2 mL) and the reaction mixture was stirred for 3 hours at room temperature. A solution of NaOH (2.0 M) was added and the mixture was extracted with DCM. The combined organic extracts were washed with water and brine, dried over Na2SO4, filtered, and evaporated under reduced pressure. The resulting crude material was purified via flash chromatography (DCM/MeOH/NH4OH) to give 0.650 g of 3-[4-(4-methoxy-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidine as a white foam: MS (M+H)=332.

reactant | HCl | 4.0 M, 3.4 mL | Cl | ClH
reactant | 3-[4-(4-methoxy-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.958 mmol, 0.845 g | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)OC)C | C23H29NO5S
reactant | NaOH | 2.0 M | [OH-].[Na+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3-[4-(4-methoxy-benzenesulfonyl)-2-methyl-phenyl]-pyrrolidine | 0.650 g | COC1=CC=C(C=C1)S(=O)(=O)C1=CC(=C(C=C1)C1CNCC1)C | C18H21NO3S
